US04260634
The experiment of Example 1A was repeated in all essential details except that p-chlorobenzenethiol 50 g (0.67 mole), 3-aminopropanol 40.9 g (0.67 mole) and propionic acid 49.6 g (0.67 mole) were reacted. There was obtained N-[3(p-chlorophenylthio)propyl]propionamide, m.p. 69°-70° C. It was designated P-2135 for convenience. The nmr spectrum was consistent with the proposed structure. It analyzed as follows:

reactant | p-chlorobenzenethiol | 0.67 mole, 50 g | ClC1=CC=C(C=C1)S | C6H5ClS
reactant | 3-aminopropanol | 0.67 mole, 40.9 g | NCCCO | C3H9NO
reactant | propionic acid | 0.67 mole, 49.6 g | C(CC)(=O)O | C3H6O2
product | N-[3(p-chlorophenylthio)propyl]propionamide | ClC1=CC=C(C=C1)SCCCNC(CC)=O | C12H16ClNOS
